US04568666
N-Tertiary butyloxycarbonyl-O-propyl-L-tyrosine N-methyl amide (370 mg, 1.1 mM) in dichloromethane (8 ml) was treated with trifluoroacetic acid (2 ml) at 20° C. for 2 h. The solvent was removed in vacuo and the residue redissolved in ether saturated with hydrogen chloride and this procedure repeated twice more to afford O-propyl-L-tyrosine-N-methyl amide hydrochloride (1.1 mM) which was used directly in the next step. N-(3-N-(Benzyloxycarbonyl)amino-1-(R)-methoxycarbonylpropyl)-L-leucine hydrochloride (prepared as described in Example 1) (416 mg, 1 mM) in dichloromethane (10 ml) and dimethyl formamide (2 ml) was treated with 1-hydroxybenzotriazole (159 mg, 1.04 mM), O-propyl-L-tyrosine-N-methyl amide hydrochloride (1.1 mM), N-methyl morpholine (315 mg, 3.3 mM) and N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride (200 mg, 1.04 mM) at 0° C. The reaction mixture was stirred continuously as it was allowed to warm to 20° C. over 16 h. The reaction was diluted with dichloromethane (30 ml) and washed successively with water, aqueous saturated sodium hydrogen carbonate and aqueous citric acid (1M) dried over anhydrous sodium sulphate and concentrated in vacuo to afford N-(3-N-Benzyloxycarbonyl)amino-1-(R)-methoxycarbonylpropyl)-L-leucyl-O-propyl-L-tyrosine-N-methyl amide (0.22 g, 0.36 mM) which crystallised from ethyl acetate/hexane as needles m.p. 135°-140° C. (Found: C,62.8; H,7.8; N,9.2. C32H46N4O7 +0.5 H2O requires: C,63.2; H,7.8; N,9.2%); δ(CDCl3) 0.86 (6H,d,d,J=4 Hz J=4 Hz (CH3)2C); 1.02 (3H,t,J=7 Hz CH3CH2); 1.1-1.98 (9H,m,CH,CH2,CH2,CH2CH2); 2.74 (3H,d,J=4 Hz CH3NH); 2.86-3.48, (5H,m,CH2CH2,CH); 3.64 (3H,s,OCH3); 3.86 (2H,t,J=6 Hz,CH2O); 4.58 (1H,m,NHCHCO); 5.06 (2H,s,CH2C6H5); 5.14 (1H,m,NH) 6.54 (1H,m,NH); 6.76, and 7.06 (4 H,each d, each J=8 Hz,C6H4); 7.32 (5H,m,C6H5); 7.42 (1H,m,NH).

reactant | N-Tertiary butyloxycarbonyl-O-propyl-L-tyrosine N-methyl amide | 1.1 mM, 370 mg | CNC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)OCCC)=O | C18H28N2O4
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | O-propyl-L-tyrosine-N-methyl amide hydrochloride | 1.1 mM | Cl.CNC([C@@H](N)CC1=CC=C(C=C1)OCCC)=O | InChI=1S/C13H20N2O2.ClH/c1-3-8-17-11-6-4-10(5-7-11)9-12(14)13(16)15-2;/h4-7,12H,3,8-9,14H2,1-2H3,(H,15,16);1H/t12-;/m0./s1
